*        COPYRIGHT   Zetex Spice Model Library 2V0
*                      (Last Revision Sept./95)
*
*
*   BSS84  MODEL      LAST REVISION  23/3/95
*              
.SUBCKT BSS84 30 40 50
* NODES: DRAIN GATE SOURCE
M1 30 20 50 50 MOD1 L=1 W=1
RG 40 20 167
RL 30 50 50E6
D1 30 50 DIODE1
.MODEL MOD1 PMOS VTO=-1.709 RS=3.091 RD=0.979 IS=1E-15 KP=0.146
+CGSO=26P CGDO=4P CBD=12P PB=1
.MODEL DIODE1 D IS=1.072E-13 RS=0.527 N=1.077
.ENDS BSS84
*
*ZETEX  ZVP2106 Mosfet Spice Subcircuit   Last revision  3/86
*
.SUBCKT ZVP2106 3 4 5
*               D G S
M1 3 2 5 5 MP2106
RG 4 2 160
RL 3 5 1.2E8
D1 3 5 DP2106
*
.MODEL MP2106 PMOS VTO=-3.193 RS=2.041 RD=0.697 IS=1E-15 KP=0.277
+CGSO=47E-12 CGDO=10E-12 CBD=105E-12 PB=1 LAMBDA=1.2E-2
*
.MODEL DP2106 D IS=2E-13 RS=0.309
.ENDS ZVP2106
*
*ZETEX  ZVP2106G Mosfet Spice Subcircuit   Last revision  3/86
*
.SUBCKT ZVP2106G 3 4 5
*                D G S
M1 3 2 5 5 MP2106
RG 4 2 160
RL 3 5 1.2E8
D1 3 5 DP2106
*
.MODEL MP2106 PMOS VTO=-3.193 RS=2.041 RD=0.697 IS=1E-15 KP=0.277
+CGSO=47E-12 CGDO=10E-12 CBD=105E-12 PB=1 LAMBDA=1.2E-2
*
.MODEL DP2106 D IS=2E-13 RS=0.309
.ENDS ZVP2106G
*
*ZETEX  ZVP3306 Mosfet Spice Subcircuit       Last revision 12/85
*
.SUBCKT ZVP3306 3 4 5
*               D G S
M1 3 2 5 5 P3306M
RG 4 2 252
RL 3 5 1.2E8
D1 3 5 P3306D
*
.MODEL P3306M PMOS VTO=-2.875 RS=5.227 RD=7.524 IS=1E-15 KP=.145
+CGSO=28E-12 CGDO=3E-12 CBD=35E-12 PB=1 LAMBDA=6.67E-3
*
.MODEL P3306D D IS=5E-12 RS=.768
.ENDS ZVP3306
*
*
*ZETEX  ZVP4424A Mosfet Spice Subcircuit   Last revision  5/7/94
*
.SUBCKT ZVP4424A 3 4 5
*                D G S
M1 3 2 5 5 P4424AM
RG 4 2 140
RL 3 5 4E9
D1 3 5 P4424AD
.MODEL P4424AM PMOS VTO=-1.5 RS=1.245 RD=6.2 IS=1E-15 KP=0.52
+CGSO=98.8E-12 CGDO=3.2E-12 CBD=65.3E-12 PB=1
.MODEL P4424AD D IS=9.36E-13 RS=.196 N=1.045
.ENDS ZVP4424A
*
*
*
*                          (C)  1995 ZETEX PLC
*
*   The copyright in these models  and  the designs embodied belong
*   to Zetex PLC ("Zetex").  They  are  supplied  free of charge by
*   Zetex for the purpose of research and design and may be used or
*   copied intact  (including this notice)  for  that purpose only.
*   All other rights are reserved. The models are believed accurate
*   but  no condition  or warranty  as to their  merchantability or
*   fitness for purpose is given and no liability in respect of any
*   use is accepted by Zetex PLC, its distributors or agents.
*
*
*   Zetex  PLC,  Fields  New  Road,  Chadderton, Oldham, Lancashire 
*                OL9 8NP  UK
